US04851413
A Grignard reagent was prepared from 693 mg (28.3 g atom) of magnesium, 7.6 g (29.3 mmol) of 1-bromo-2,5-dimethoxy-3,4,6-trimethylbenzene and tetrahydrofuran at 65° C. and cooled to 0° C., to which a solution of 3.75 g (21.9 mmol) of 3-heptanoylpyridine in 10 ml of tetrahydrofuran was added dropwise. After completion of the addition, the reaction mixture was stirred at room temperature for 1 hour, to which water was added and extracted with ethyl acetate. The extract was washed with water, dried and concentrated. The residue was purified with silica gel column chromatography (isopropyl ether) and recrystallized from hexane, to give 3.2 g (39%) of 1-(2,5-dimethoxy-3,4,6-trimethylphenyl)-1-(3-pyridyl)heptanol. m.p. 109°-110° C.

reactant | magnesium | 693 mg | [Mg] | Mg
reactant | 1-bromo-2,5-dimethoxy-3,4,6-trimethylbenzene | 29.3 mmol, 7.6 g | BrC1=C(C(=C(C(=C1C)OC)C)C)OC | C11H15BrO2
reactant | 3-heptanoylpyridine | 21.9 mmol, 3.75 g | C(CCCCCC)(=O)C=1C=NC=CC1 | C12H17NO
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(2,5-dimethoxy-3,4,6-trimethylphenyl)-1-(3-pyridyl)heptanol | 3.2 g, 39% | COC1=C(C(=C(C(=C1C)C)OC)C)C(CCCCCC)(O)C=1C=NC=CC1 | C23H33NO3
